US05292901
3-(6-Methoxymethyl-1,3-benzodioxole-5-yl)propionic acid
1.6 g of 3-(6-acetoxymethyl-1,3-benzodioxole-5-yl)propionic acid was dissolved in 100 ml of methanol. A catalytic amount of p-toluenesulfonic acid was added to the solution and the mixture was heated under reflux for 4 h and 15 min. The solvent was distillef off from the reaction mixture. A solution of 1 g of sodium hydroxide in a mixture of 5 ml of water and 45 ml of ethanol was added to the residue and the mixture was heated under reflux for 20 min. The reaction mixture was concentrated. 200 ml of ethyl acetate and 200 ml of water were added to the concentrate. The mixture was acidified with concentrated hydrochloric acid. The layers thus formed were separated. The product was washed with water three times and then dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 1.25 g of the intended compound in the form of a white powder.

reactant | 3-(6-acetoxymethyl-1,3-benzodioxole-5-yl)propionic acid | 1.6 g | C(C)(=O)OCC=1C(=CC2=C(OCO2)C1)CCC(=O)O | C13H14O6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 3-(6-Methoxymethyl-1,3-benzodioxole-5-yl)propionic acid | 1.25 g | COCC=1C(=CC2=C(OCO2)C1)CCC(=O)O | C12H14O5
